US08071607B2
Compound 46A. 1-(3-Pyrrol-1-yl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
1-(3-Bromo-phenyl)-1H-pyrrole (0.3 g, 1.0 eq, 1.35 mmol) and cyclohexane-1,2-diamine (0.03 g, 0.2 eq, 0.27 mmol) were added to a pre-stirred mixture of 1H-Pyrazolo[3,4-d]pyrimidin-4-ylamine (0.22 g, 1.2 eq, 1.62 mmol), copper iodide (0.013 g, 0.5 eq, 0.68 mmol) and potassium phosphate (0.6 g, 2.1 eq, 2.84 mmol) in DMF (8 ml) under an inert atmosphere. The reaction mixture was then stirred at 110° C. for 24 hours, and allowed to cool to room temperature. Ethyl acetate (8 ml) was then added to the reaction mixture which was then filtered through a plug of silica, which was then washed with a further portion of ethylacetate (20 ml). The filtrate was concentrated to dryness in vacuo and the resultant residue was purified by column chromatography using DCM/MeOH (95:5) as eluent to yield the title compound as an off-white solid (18 mg, 0.07 mmol, 5%). LCMS: [M+H]+=277, Rt=1.80 min, 97% purity.

reactant | 1-(3-Bromo-phenyl)-1H-pyrrole | 1.35 mmol, 0.3 g, 1.0 eq | BrC=1C=C(C=CC1)N1C=CC=C1 | C10H8BrN
reactant | cyclohexane-1,2-diamine | 0.27 mmol, 0.03 g, 0.2 eq | C1(C(CCCC1)N)N | C6H14N2
reactant | 1H-Pyrazolo[3,4-d]pyrimidin-4-ylamine | 1.62 mmol, 0.22 g, 1.2 eq | N1N=CC=2C1=NC=NC2N | C5H5N5
reactant | potassium phosphate | 2.84 mmol, 0.6 g, 2.1 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.68 mmol, 0.013 g, 0.5 eq | [Cu](I)I
solvent | Ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-Pyrrol-1-yl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.07 mmol, 18 mg, 5% | N1(C=CC=C1)C=1C=C(C=CC1)N1N=CC=2C1=NC=NC2N | C15H12N6
